2159-04-26 07:40:00 Physician Resident Progress Note
Chief Complaint: Fatigue x One Week.  Transferred to CCU for hypoxic
   respiratory distress
   24 Hour Events:
   [**4-25**]
   - Patient returned to junctional rhythm, diltiazem was discontinued.
   - dr. [**Last Name (STitle) **]: please collect sputum culture, chest PT
   - more lowish UOP, gave 500 cc + 250 cc bolus NS
   - tachy in evening and c/o anxiety - gave dilt 10 IV ONCE and
   ativan 0.25 and improved
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2159-4-25**] 08:00 PM
   Cefipime - [**2159-4-25**] 09:00 PM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2159-4-26**] 07:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-4-26**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**61**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 111 (74 - 140) bpm
   BP: 97/50(57) {97/50(57) - 135/86(95)} mmHg
   RR: 26 (18 - 29) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 54.8 kg (admission): 53.1 kg
   Height: 57 Inch
             Total In:
                                                                  3,183 mL
                                                                     76 mL
   PO:
                                                                    210 mL
             TF:
   IVF:
                                                                  2,973 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                    589 mL
                                                                    242 mL
   Urine:
                                                                    589 mL
                                                                    242 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,594 mL
                                                                   -166 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 786 (0 - 786) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 7 cmH2O
   FiO2: 70%
   PIP: 17 cmH2O
   SpO2: 92%
   ABG: ////
   Ve: 2 L/min
   Physical Examination
   Gen: Pleasant. NAD. Oriented x3. Mood, affect appropriate.
   HEENT: Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no pallor
   or cyanosis of the oral mucosa.
   Neck: Supple with full EJ and JVP slightly above clavicle (no change)
   CV: normal S1, S2. No m/r/g.
   Chest: Severe Kyphoscoliosis. Patient appeared comfortable breathing on
   high flow nasal canula, + expiratory wheezes and decreased breath
   sounds on right and left bases.  Course rhales at right base.
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: no pedal edema
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   190 K/uL
   10.4 g/dL
   130 mg/dL
   1.1 mg/dL
   26 mEq/L
   4.6 mEq/L
   38 mg/dL
   107 mEq/L
   142 mEq/L
   32.3 %
   7.2 K/uL
        [image002.jpg]
                             [**2159-4-22**]  07:24 PM
                             [**2159-4-23**]  03:43 AM
                             [**2159-4-23**]  03:15 PM
                             [**2159-4-24**]  03:57 AM
                             [**2159-4-24**]  02:14 PM
                             [**2159-4-24**]  03:37 PM
                             [**2159-4-25**]  04:20 AM
                             [**2159-4-26**]  06:32 AM
   WBC
   9.1
   9.3
   11.4
   9.9
   7.2
   Hct
   36.8
   35.5
   37.3
   35.6
   32.3
   Plt
   154
   134
   150
   164
   190
   Cr
   1.1
   1.1
   1.2
   1.1
   1.1
   TropT
   <0.01
   <0.01
   <0.01
   <0.01
   TCO2
   32
   31
   Glucose
   118
   119
   115
   106
   130
   Other labs: PT / PTT / INR:45.9/44.3/4.9, CK / CKMB /
   Troponin-T:206/3/<0.01, ALT / AST:30/29, Alk Phos / T Bili:124/0.8,
   Differential-Neuts:71.7 %, Lymph:20.4 %, Mono:6.6 %, Eos:1.2 %, Lactic
   Acid:1.6 mmol/L, Albumin:3.5 g/dL, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.3 mg/dL
   Imaging: No new
   Microbiology: [**2159-4-22**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2159-4-22**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2159-4-22**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
 OLIGURIA/ANURIA
 ATRIAL FIBRILLATION (AFIB)
 RESTRICTIVE LUNG DISEASE (INCLUDING NEUROMUSCULAR, CHEST WALL)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ASSESSMENT AND PLAN:
   Mr. [**Name14 (STitle) 12541**] is a 75 YOM with paroxysmal atrial fibrilation and
   coronary artery disease who presented with 5 days of fatigue and
   developed hypoxic respiratory distress.
   .
   # Hypoxic Respiratory Distress:  O2 saturations tenuous but stable.
   Likely from pneumonia with poor baseline lung reserve due to
   kyphoscoliosis and restrictive lung. Anxiety leading to tachypnea and
   with poor tidal volumes likely contributing.
   -- Continue vanc, cefpipime (D # [**5-19**])
   -- Continue doxycycline to cover atypicals (D # [**5-19**])
   -- standing nebs Q 6 hr plus PRN
   -- high flow nasal canula versus non-rebreather for sats > 93%
   -- bipap PRN for comfort for decreased O2 sats
   -- f/u sputum and blood cultures
   -- Obtain VBG
   -- Low threshold for ABG and intubation
   -- tylenol PRN
   -- IV bolus to help hydrate during infection (and pt not taking good
   PO)
   -- Requesting Chest PT per Dr. [**Last Name (STitle) 712**]
   -- pt requesting PT to relieve back pain with message from scoliosis
   -- Treat panic attacks with small doses of ativan (0.25mg)
   .
   # Atrial fibrilation: Underlying mechanism for RVR is most likely
   hypoxia as O2 sats tightly correlate with tachycardia. Patient
   converted to normal sinus rhythm after dofetillide.  Had an episode of
   atrial fibrillation versus multifocal atrial tachycardia the night of
   admission to the unit in the setting of fever and hypoxia.  Had another
   episode of a fib with RVR last night that was unresponsive to
   lopressor, but was rate controlled with diltiazem.  CHADS II is 3.  Pt
   anticoagulated with coumadin.
   -- per EP hold atenolol, will consider restaring or not at discharge
   -- will discuss with EP re discontinuing dofetillide as may not be
   working effectively as an antiarrythmic
   -- Diltiazem 30mg PO Q6H standing for now
   -- STOP nifedipine now that using diltiazem
   -- holding Coumadin for now (supratheraputic) will restart when <2.5 mg
   -- f/u with EP regarding long term management for a fib
   .
   # Hypertension:
   -- Hold nifedipine as above
   -- holding atenolol as above
   # Low urine output:  Pt made low urine last night.  Improved after IV
   bolus.  Was also started on maintenance fluids overnight.  Pt not
   taking in good PO due to desaturations without the facemask
   -- continue to bolus PRN for low urine output
   .
   # altered mental status: Likely occurred in the setting of fever and
   tachycardia along with increased benzodiazepine dose.  .
   -- appreciate psych recs
   -- small doses of ativan PRN panic attacks
   -- continue mirtazepine HS plus PRN (pt did ok with this)
   -- will try low dose haldol 1 mg PO if needed for acute agitation
   .
   # Depression/insomnia:  Pt complained of insomnia last night and
   requested increased mirtazepine.  Received trazodone which left him
   groggy this am.  Family concerned about treating his anxiety, but team
   weary of using benzodiazepine given his tenuous respiratory status and
   multiple risk factors for delirium.
   -- prefer to hold ativan (recommended by psych) and use only if needed
   -- per psych may consider 0.25 mg haldol for anxiety, will weigh the
   cost/benefits given pt on dofetilide which prolongs QT (although
   studies show haldol prolongs QT less than other antipsychotics.
   -- continue mirtazepine
   # Coronary artery disease:  Status post CABG and [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **] 2.  ST
   depressions on EKG (stable, but worsened with tachycardia to 150s).  No
   active chest pain.  Cardiac enzymes negative.
   -- continue aspirin 81 mg, lipitor
   .
   # Chronic sinusitis:
   -- continue flonase
   -- discourage nasal lavage until respiratory status improves
   .
   # OSA: On biPAP at home.  Will continue on high flow canula and hold
   biPAP tonight given hypoxia.
   --- Continue BiPAP PRN
   .
   # Hyperlipidemia:
   -- Continue Atorvastatin
   .
   # FEN/GI:
   -- cardiac healthy diet
   -- nutrition consult
   .
   #Prophy:
   DVT - Coumadin
   Bowel regimen - senna, docusate
   pain - tylenol
   .
   #ACCESS: PIV
   # Communication:
   [**Name (NI) **] [**Name (NI) 12543**] (wife) [**Telephone/Fax (1) 12544**]
   [**Name (NI) 12545**] [**Name (NI) 12543**] (son) [**Telephone/Fax (1) 12546**]
   ICU Care
   Nutrition: cardiac healthy
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-4-24**] 05:00 PM
   Prophylaxis:
   DVT: Holding Coumadin (supratherapeutic)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3876**], MD
   on:[**2159-4-27**] 13:33 ------

2159-04-27 08:47:00 Physician Resident Progress Note
Chief Complaint: Fatigue x One Week.  Transferred to CCU for hypoxic
   respiratory distress
   24 Hour Events:
   [**4-26**]
   - continued home lactobacillus for constipation
   - written for PRN lorazepam
   - continued gentle hydration
   - nifedipine stopped; standing diltiazem written and up-titrated to
   60mg PO Q6H
   - VBG with rising pCO2; patient placed back on BiPAP at this time
   - Pt occasionally received dilt 10mg IV x 1 for RVR in 130s-140s
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2159-4-26**] 08:06 PM
   Vancomycin - [**2159-4-26**] 08:45 PM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2159-4-26**] 11:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Feels worse today, more SOB, no CP.
   Flowsheet Data as of  [**2159-4-27**] 08:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**61**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 79 (77 - 147) bpm
   BP: 137/70(84) {99/49(65) - 148/86(99)} mmHg
   RR: 23 (21 - 32) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 54.8 kg (admission): 53.1 kg
   Height: 57 Inch
             Total In:
                                                                  1,560 mL
                                                                    510 mL
   PO:
                                                                    200 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,360 mL
                                                                    450 mL
   Blood products:
   Total out:
                                                                    807 mL
                                                                    400 mL
   Urine:
                                                                    807 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    753 mL
                                                                    110 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 216 (216 - 334) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 7 cmH2O
   FiO2: 70%
   PIP: 18 cmH2O
   SpO2: 94%
   ABG: ///28/
   Ve: 6.5 L/min
   Physical Examination
   Gen: Pleasant. NAD. Oriented x3. Mood, affect appropriate.
   HEENT: Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no pallor
   or cyanosis of the oral mucosa.
   Neck: Supple with full EJ and JVP slightly above clavicle (no change)
   CV: normal S1, S2. No m/r/g.
   Chest: Severe Kyphoscoliosis. Patient appeared comfortable breathing on
   high flow nasal canula, + expiratory wheezes and decreased breath
   sounds on right and left bases.  Course rhales at right base. +
   egophony
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: no pedal edema
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   192 K/uL
   11.2 g/dL
   101 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.2 mEq/L
   31 mg/dL
   111 mEq/L
   146 mEq/L
   35.5 %
   9.5 K/uL
        [image002.jpg]
                             [**2159-4-22**]  07:24 PM
                             [**2159-4-23**]  03:43 AM
                             [**2159-4-23**]  03:15 PM
                             [**2159-4-24**]  03:57 AM
                             [**2159-4-24**]  02:14 PM
                             [**2159-4-24**]  03:37 PM
                             [**2159-4-25**]  04:20 AM
                             [**2159-4-26**]  06:32 AM
                             [**2159-4-27**]  05:30 AM
   WBC
   9.1
   9.3
   11.4
   9.9
   7.2
   9.5
   Hct
   36.8
   35.5
   37.3
   35.6
   32.3
   35.5
   Plt
   154
   134
   150
   164
   190
   192
   Cr
   1.1
   1.1
   1.2
   1.1
   1.1
   0.9
   0.8
   TropT
   <0.01
   <0.01
   <0.01
   <0.01
   TCO2
   32
   31
   Glucose
   118
   119
   115
   106
   130
   93
   101
   Other labs: PT / PTT / INR:33.4/43.4/3.4, CK / CKMB /
   Troponin-T:206/3/<0.01, ALT / AST:30/29, Alk Phos / T Bili:124/0.8,
   Differential-Neuts:71.7 %, Lymph:20.4 %, Mono:6.6 %, Eos:1.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.5 g/dL, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.5 mg/dL
   Imaging: CXR [**2159-4-27**]:
   FINDINGS: Comparison to the previous chest radiograph of earlier the
   same
   date. The opacity in the right lower lung has improved suggesting this
   may be
   predominantly due to repositioning of a small right pleural effusion
   and
   improved mild pulmonary edema rather than consolidation although
   improved
   aspiration would be another consideration. The left lung is difficult
   to
   evaluate due to the severe scoliosis of the spine and probably
   unchanged.
   Cardiomegaly is stable.
   IMPRESSION:
   Overall improvement, the changes in the right lung base are less likely
   to be
   due to infection and more likely due to altered positioning of a small
   pleural
   effusion and improved mild pulmonary edema.
   Microbiology: [**2159-4-26**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-FINAL INPATIENT
   [**2159-4-22**]  URINE Legionella Urinary Antigen -FINAL INPATIENT
   [**2159-4-22**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   [**2159-4-22**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2159-4-22**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2159-4-22**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
 ALTERATION IN NUTRITION
 PNEUMONIA, [**Hospital 2293**] HOSPITAL ACQUIRED (NON-VAP)
 OLIGURIA/ANURIA
 ATRIAL FIBRILLATION (AFIB)
 RESTRICTIVE LUNG DISEASE (INCLUDING NEUROMUSCULAR, CHEST WALL)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ASSESSMENT AND PLAN:
   Mr. [**Name14 (STitle) 12541**] is a 75 YOM with paroxysmal atrial fibrilation and
   coronary artery disease who presented with 5 days of fatigue and
   developed hypoxic respiratory distress.
   .
   # Hypoxic Respiratory Distress:  O2 saturations tenuous but stable.
   Likely from pneumonia with poor baseline lung reserve due to
   kyphoscoliosis and restrictive lung. Anxiety leading to tachypnea and
   with poor tidal volumes likely contributing.
   -- Continue vanc, cefpipime (D # [**6-19**])
   -- Continue doxycycline to cover atypicals (D # [**6-19**])
   -- continue nebs Q 6 hr PRN (changed to PRN given is not using this)
   -- high flow nasal canula versus non-rebreather for sats > 93%
   -- bipap PRN for comfort for decreased O2 sats
   -- f/u sputum and blood cultures
   -- Daily VBG
   -- Low threshold for ABG and intubation
   -- tylenol PRN
   -- IV bolus to help hydrate during infection (and pt not taking good
   PO)
   -- Trial of gentle diuresis with Lasix 10mg IV ONCE and monitor O2
   status as may have a component of pulmonary edema
   -- pt requesting PT to relieve back pain with message from scoliosis
   -- Treat panic attacks with small doses of ativan (0.25mg) PRN
   -- Formal pulm consult with discussions re MICU transfer as patient
   primary problem seems pulmonary
   .
   # Atrial fibrilation: Underlying mechanism for RVR is most likely
   hypoxia as O2 sats tightly correlate with tachycardia. Patient
   converted to normal sinus rhythm after dofetillide.  Had an episode of
   atrial fibrillation versus multifocal atrial tachycardia the night of
   admission to the unit in the setting of fever and hypoxia.  Had another
   episode of a fib with RVR last night that was unresponsive to
   lopressor, but was rate controlled with diltiazem.  CHADS II is 3.  Pt
   anticoagulated with coumadin.
   -- per EP hold atenolol, will consider restaring or not at discharge
   -- will discuss with EP re discontinuing dofetillide as may not be
   working effectively as an antiarrythmic
   -- Diltiazem 60mg PO Q6H standing for now with 10mg IV PRN RVR
   -- STOP nifedipine now that using diltiazem
   -- holding Coumadin for now (supratheraputic) will restart when <2.5 mg
   -- f/u with EP regarding long term management for a fib
   .
   # Hypertension:
   -- Hold nifedipine as above
   -- holding atenolol as above
   # Low urine output:  Improved.
   .
   # altered mental status: Likely occurred in the setting of fever and
   tachycardia along with increased benzodiazepine dose.  .
   -- appreciate psych recs
   -- small doses of ativan PRN panic attacks
   -- continue mirtazepine HS plus PRN (pt did ok with this)
   -- will try low dose haldol 1 mg PO if needed for acute agitation
   .
   # Depression/insomnia:  Pt complained of insomnia last night and
   requested increased mirtazepine.  Received trazodone which left him
   groggy this am.  Family concerned about treating his anxiety, but team
   weary of using benzodiazepine given his tenuous respiratory status and
   multiple risk factors for delirium.
   -- prefer to hold ativan (recommended by psych) and use only if needed
   -- per psych may consider 0.25 mg haldol for anxiety, will weigh the
   cost/benefits given pt on dofetilide which prolongs QT (although
   studies show haldol prolongs QT less than other antipsychotics.
   -- continue mirtazepine
   # Coronary artery disease:  Status post CABG and [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **] 2.  ST
   depressions on EKG (stable, but worsened with tachycardia to 150s).  No
   active chest pain.  Cardiac enzymes negative.
   -- continue aspirin 81 mg, Lipitor
   -- Rate control with dilt and treating underlying hypoxia and infection
   .
   # Chronic sinusitis:
   -- continue flonase
   -- discourage nasal lavage until respiratory status improves
   .
   # OSA: On biPAP at home.  Will continue on high flow canula and hold
   biPAP tonight given hypoxia.
   --- Continue BiPAP PRN
   .
   # Hyperlipidemia:
   -- Continue Atorvastatin
   .
   # FEN/GI:
   -- cardiac healthy diet
   -- nutrition consult
   .
   #Prophy:
   DVT - Coumadin
   Bowel regimen - senna, docusate
   pain - tylenol
   .
   #ACCESS: PIV
   # Communication:
   [**Name (NI) **] [**Name (NI) 12543**] (wife) [**Telephone/Fax (1) 12544**]
   [**Name (NI) 12545**] [**Name (NI) 12543**] (son) [**Telephone/Fax (1) 12546**]
   ICU Care
   Nutrition: cardiac healthy
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-4-24**] 05:00 PM
   Prophylaxis:
   DVT: Holding Coumadin (supratherapeutic)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3876**], MD
   on:[**2159-4-27**] 13:33 ------

2159-04-28 06:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - episode of AFIB w/ RVR - got 10IV diltiazem + scheduled 60PO with
   good response (was also in pain at time, attempting BM)
   - on 100% high flow mask on 5L was satting 87%; pt reports breathing
   not improved
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2159-4-27**] 09:30 PM
   Vancomycin - [**2159-4-27**] 10:02 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2159-4-27**] 11:02 PM
   Diltiazem - [**2159-4-28**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No changes
   Flowsheet Data as of  [**2159-4-28**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**61**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.1
C (97
   HR: 100 (79 - 142) bpm
   BP: 133/78(90) {117/58(69) - 156/92(104)} mmHg
   RR: 18 (18 - 32) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 56.4 kg (admission): 53.1 kg
   Height: 57 Inch
             Total In:
                                                                  1,177 mL
                                                                    476 mL
   PO:
                                                                    390 mL
             TF:
   IVF:
                                                                    787 mL
                                                                    476 mL
   Blood products:
   Total out:
                                                                  1,263 mL
                                                                  1,300 mL
   Urine:
                                                                  1,263 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -86 mL
                                                                   -824 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 530 (367 - 533) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 7 cmH2O
   FiO2: 70%
   PIP: 17 cmH2O
   SpO2: 95%
   ABG: ///31/
   Ve: 2.8 L/min
   Physical Examination
   Gen: Pleasant. NAD.
   HEENT: Sclera anicteric.
   Neck: Supple with full EJ and JVP slightly above clavicle
   CV: normal S1, S2. No m/r/g.
   Chest: Sever Kyphoscoliosis. Decreased breath sounds on right < left
   bases; coarse breath sounds anteriorly; rhonchorous sounds at left
   base. Crackles at bases bilaterally. No air movement over posterior LUL
   fields
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: no pedal/ankle edema.   2+ DP pulses bilaterally
   Labs / Radiology
   201 K/uL
   10.6 g/dL
   149 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.8 mEq/L
   29 mg/dL
   108 mEq/L
   145 mEq/L
   33.2 %
   7.8 K/uL
        [image002.jpg]
                             [**2159-4-23**]  03:43 AM
                             [**2159-4-23**]  03:15 PM
                             [**2159-4-24**]  03:57 AM
                             [**2159-4-24**]  02:14 PM
                             [**2159-4-24**]  03:37 PM
                             [**2159-4-25**]  04:20 AM
                             [**2159-4-26**]  06:32 AM
                             [**2159-4-27**]  05:30 AM
                             [**2159-4-27**]  04:10 PM
                             [**2159-4-28**]  05:09 AM
   WBC
   9.3
   11.4
   9.9
   7.2
   9.5
   7.8
   Hct
   35.5
   37.3
   35.6
   32.3
   35.5
   33.2
   Plt
   134
   150
   164
   190
   192
   201
   Cr
   1.1
   1.2
   1.1
   1.1
   0.9
   0.8
   0.8
   0.7
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   32
   31
   Glucose
   119
   115
   106
   130
   93
   101
   137
   149
   Other labs: PT / PTT / INR:26.5/39.1/2.6, CK / CKMB /
   Troponin-T:206/3/<0.01, ALT / AST:30/29, Alk Phos / T Bili:124/0.8,
   Differential-Neuts:71.7 %, Lymph:20.4 %, Mono:6.6 %, Eos:1.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.5 g/dL, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.4 mg/dL
   Vanc level
 pending (previously 28 on [**4-25**])
   No changes in micro data
   [**4-28**] CXR - pending
   Assessment and Plan
   Professor [**Known lastname 12543**] is a 75 YOM with paroxysmal atrial fibrilation and
   coronary artery disease who presented with 5 days of fatigue and
   developed hypoxic respiratory distress now s/p CCU stay for A. Fib with
   RVR and respiratory distress requiring BiPap.
   .
   # Hypoxic Respiratory Distress: Initially patient had focal RLL
   infiltrate c/w pneumonia and fever.  Agree with continuing broad
   spectrum antibiotics.  At this time, patient appears to have
   superimposed pulmonary edema from volume resuscitation as evidenced by
   LOS fluid balance, interval weight, and clinical exam.  Attempted low
   dose lasix overnight [**4-27**] for diuresis and monitor respiratory status,
   with 700cc out and no worsening in creatinine.  Will attempt further
   diuresis and if no improvement in the respiratory status would obtain
   non-contrast chest CT and consider thoracentesis of any pleural
   effusions.  Patient has limited reserve given prior pneumonectomy and
   severe kyphoscoliosis and may not tolerate small volumes of fluid.
   Would anticipate that he would look a lot sicker if this were
   principally a worsening pneumonia. Urine legionella negative.
   - Give additional 20mg IV lasix now, follow I/O closely with goal
   negative 500cc
   - If pt not improved despite continue diuresis, will obtain NC CT chest
   to better characterize pathology and possible effusions
   - Continue vanc, cefpipime (Day 1 [**2159-4-22**]) for full 8 day course.
   - Repeat vanc trough in AM
 ordered as add-on (dose was last changed
   on [**4-25**]; may need readjustment given changing Cr)
   - Continue doxycycline to cover atypicals for full 8 day course
   - Nebulizers as needed
   - f/u blood cultures; consider repeat sputum culture
   - Low threshold for repeat ABG and intubation if necessary - appears
   comfortable currently though.
   - Chest PT
   - frequent attempts to wean BiPap; would like to keep SpO2 > 90%.
   .
   # Atrial fibrillation: Currently in paroxysmal atrial fibrillation with
   episodes of RVR.
   - Dofetilide interacts with vancomycin and hence need to monitor QT
   intervals.
   - continue dofetillide with daily ECG for QTc (clarify with cardiology
   when this practice can be d/c'd and plan for dofetilide regarding
   rhythm therapy for a. fib)
   - keep potassium around 4 and magnesium at 1.8 for the dofetilide;
   check electrolytes frequently
   - Restart Coumadin today at 2.5mg (pt was on 5mg X 5 days, 2.5 mg on
   Mon/Fri) and dose based on INR (goal 2-2.5)
   - Touch base with EP
   .
   # Junctional Bradycardia: thought [**2-13**] to beta-blockers.  Hold atenolol
   and avoid metoprolol for rate control.
   - d/w EP regarding beta-blocker prior to d/c home.
   .
   # Coronary artery disease:  Status post CABG and [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **] 2.  ST
   depressions on EKG (stable, but worsened with tachycardia to 150s).  No
   active chest pain.  Cardiac enzymes negative.
   - continue aspirin 81 mg, Lipitor
   - Rate control with standing and prn dilt and treating underlying
   hypoxia and infection
   .
   # Hypertension:
   -continue diltiazem.  holding beta-blocker given junctional rhythm.
   .
   # Altered mental status: Likely occurred in the setting of fever and
   tachycardia along with increased benzodiazepine dose.  .
   - appreciate psych recs
   - small doses of ativan PRN panic attacks
   - continue mirtazepine HS plus PRN (pt did ok with this)
   - will try low dose haldol 0.5 mg PO if needed for acute agitation
   .
   # Depression/insomnia:  Psych following, avoid benzodiaepines
   - prefer to hold ativan (recommended by psych) and use only if needed
   - per psych may consider 0.25 mg haldol for anxiety, will weigh the
   cost/benefits given pt on dofetilide which prolongs QT (although
   studies show haldol prolongs QT less than other antipsychotics.
   - continue mirtazapine.
   .
   # Hypernatremia: Free water down by 1.5L, not taking PO's well given
   respiratory distress.
   - Continue slow D5 infusion at 75-100cc/hr with improvement in sodium;
   recheck sodium in afternoon.
   - Maintain negative with lasix.
   .
   # Chronic sinusitis:
   - continue flonase
   # Hematuria
 pink tinged urine likely from traumatic foley placement.
   - monitor hematuria for resolution.
   .
   # OSA: On biPAP at home.  Will continue on high flow canula and hold
   biPAP tonight given hypoxia.
   - Continue BiPAP PRN
   .
   # Hyperlipidemia:
   - Continue Atorvastatin
   .
   # FEN/GI:
   - cardiac healthy diet
   - nutrition consult, recs appreciated -> not taking good PO's while on
   BiPap; possible TFs supplementation
   .
   # DVT - Coumadin with INR therapeutic
   # Bowel regimen - senna, docusate; pt takes own lactobacillus
   # Pain: Currently comfortable, tylenol prn
   # ACCESS: PIV
   # Communication: Patient, wife, daughter+
   # Full Code
   [**Name (NI) **] [**Name (NI) 12543**] (wife) [**Telephone/Fax (1) 12544**]
   [**Name (NI) 12545**] [**Name (NI) 12543**] (son) [**Telephone/Fax (1) 12546**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-4-27**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2159-04-28 10:31:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Still requiring NIPPV at almost all times
   Reports that he is comfortable on NIPPV at the moment
   24 Hour Events:
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2159-4-27**] 09:30 PM
   Vancomycin - [**2159-4-27**] 10:02 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2159-4-27**] 11:02 PM
   Diltiazem - [**2159-4-28**] 12:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2159-4-28**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**61**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.5
   HR: 92 (91 - 142) bpm
   BP: 127/75(86) {117/62(69) - 156/92(104)} mmHg
   RR: 22 (18 - 29) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 56.4 kg (admission): 53.1 kg
   Height: 57 Inch
             Total In:
                                                                  1,177 mL
                                                                    768 mL
   PO:
                                                                    390 mL
             TF:
   IVF:
                                                                    787 mL
                                                                    768 mL
   Blood products:
   Total out:
                                                                  1,263 mL
                                                                  1,480 mL
   Urine:
                                                                  1,263 mL
                                                                  1,480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -86 mL
                                                                   -713 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 526 (367 - 533) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 7 cmH2O
   FiO2: 60%
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: ///31/
   Ve: 5.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   10.6 g/dL
   201 K/uL
   149 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.8 mEq/L
   29 mg/dL
   108 mEq/L
   145 mEq/L
   33.2 %
   7.8 K/uL
        [image002.jpg]
                             [**2159-4-23**]  03:43 AM
                             [**2159-4-23**]  03:15 PM
                             [**2159-4-24**]  03:57 AM
                             [**2159-4-24**]  02:14 PM
                             [**2159-4-24**]  03:37 PM
                             [**2159-4-25**]  04:20 AM
                             [**2159-4-26**]  06:32 AM
                             [**2159-4-27**]  05:30 AM
                             [**2159-4-27**]  04:10 PM
                             [**2159-4-28**]  05:09 AM
   WBC
   9.3
   11.4
   9.9
   7.2
   9.5
   7.8
   Hct
   35.5
   37.3
   35.6
   32.3
   35.5
   33.2
   Plt
   134
   150
   164
   190
   192
   201
   Cr
   1.1
   1.2
   1.1
   1.1
   0.9
   0.8
   0.8
   0.7
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   32
   31
   Glucose
   119
   115
   106
   130
   93
   101
   137
   149
   Other labs: PT / PTT / INR:26.5/39.1/2.6, CK / CKMB /
   Troponin-T:206/3/<0.01, ALT / AST:30/29, Alk Phos / T Bili:124/0.8,
   Differential-Neuts:71.7 %, Lymph:20.4 %, Mono:6.6 %, Eos:1.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.5 g/dL, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 PNEUMONIA, [**Hospital 2293**] HOSPITAL ACQUIRED (NON-VAP)
 OLIGURIA/ANURIA
 ATRIAL FIBRILLATION (AFIB)
 RESTRICTIVE LUNG DISEASE (INCLUDING NEUROMUSCULAR, CHEST WALL)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   75M with a history of coronary artery disease s/p CABG x3, PAF,
   restrictive lung disease, and pulmonary HTN with ongoing respiratory
   failure due to pulmonary edema vs. pneumonia
   Respiratory failure:  Cont NIPPV.  Give 20mg of Lasix now.  Chest CT
   without contrast.  Cont cefepime, vanco for 8 day course
   Afib: Cont dofetilide
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-4-27**] 09:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2159-04-29 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - EP recs (pager [**Numeric Identifier 12705**]) - keep pt on dofetilide even if still in Afib;
   will attempt electrical cardioconversion when pt stable in terms of
   respiratory status and then will need to continue dofetilide to
   maintain NSR. While on dofetilide, keep K>4, Mg>2, and obtain daily EKG
   to monitor QTc. Watch Cr function closely and if it increases, page EP
   team to let them know.
   - CT Chest (my read): moderate right sided pleural effusion with
   collapsed lung.  Small left sided pleural effusion.  No evidence of
   pneumonia or infiltrate.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2159-4-28**] 08:16 PM
   Vancomycin - [**2159-4-28**] 09:00 PM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Diltiazem - [**2159-4-28**] 01:00 PM
   Furosemide (Lasix) - [**2159-4-28**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unchanged
   Flowsheet Data as of  [**2159-4-29**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**61**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36
C (96.8
   HR: 79 (78 - 141) bpm
   BP: 139/78(92) {112/58(72) - 158/99(114)} mmHg
   RR: 20 (14 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.4 kg (admission): 53.1 kg
   Height: 57 Inch
             Total In:
                                                                  2,830 mL
                                                                    648 mL
   PO:
                                                                    740 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  2,090 mL
                                                                    548 mL
   Blood products:
   Total out:
                                                                  3,635 mL
                                                                    405 mL
   Urine:
                                                                  3,635 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -805 mL
                                                                    243 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 518 (421 - 581) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 7 cmH2O
   FiO2: 60%
   PIP: 17 cmH2O
   SpO2: 97%
   ABG: ///35/
   Ve: 5 L/min
   Physical Examination
   Gen: Pleasant. NAD.
   HEENT: Sclera anicteric.
   Neck: Supple with full EJ and JVP slightly above clavicle
   CV: normal S1, S2. No m/r/g.
   Chest: Severe Kyphoscoliosis. Decreased breath sounds on right  base;
   absent on left except at apex. BS markedly improved, clear at apices
   with rhonchi in lower fields.  No air movement over posterior LUL
   fields
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: no pedal/ankle edema.   2+ DP pulses bilaterally
   Labs / Radiology
   221 K/uL
   10.5 g/dL
   109 mg/dL
   0.8 mg/dL
   35 mEq/L
   4.3 mEq/L
   22 mg/dL
   104 mEq/L
   143 mEq/L
   31.9 %
   8.4 K/uL
        [image002.jpg]
                             [**2159-4-24**]  03:57 AM
                             [**2159-4-24**]  02:14 PM
                             [**2159-4-24**]  03:37 PM
                             [**2159-4-25**]  04:20 AM
                             [**2159-4-26**]  06:32 AM
                             [**2159-4-27**]  05:30 AM
                             [**2159-4-27**]  04:10 PM
                             [**2159-4-28**]  05:09 AM
                             [**2159-4-28**]  02:05 PM
                             [**2159-4-29**]  05:00 AM
   WBC
   11.4
   9.9
   7.2
   9.5
   7.8
   8.4
   Hct
   37.3
   35.6
   32.3
   35.5
   33.2
   31.9
   Plt
   150
   164
   190
   192
   201
   221
   Cr
   1.1
   1.1
   0.9
   0.8
   0.8
   0.7
   0.8
   0.8
   TropT
   <0.01
   TCO2
   32
   31
   Glucose
   106
   130
   93
   101
   137
   149
   131
   109
   Other labs: PT / PTT / INR:20.9/35.0/1.9, CK / CKMB /
   Troponin-T:206/3/<0.01, ALT / AST:30/29, Alk Phos / T Bili:124/0.8,
   Differential-Neuts:71.7 %, Lymph:20.4 %, Mono:6.6 %, Eos:1.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.5 g/dL, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
   Professor [**Known lastname 12543**] is a 75 YOM with paroxysmal atrial fibrilation and
   coronary artery disease who presented with 5 days of fatigue and
   developed hypoxic respiratory distress now s/p CCU stay for A. Fib with
   RVR and respiratory distress requiring BiPap.
   .
   # Hypoxic Respiratory Distress: Initially patient had focal RLL
   infiltrate c/w pneumonia and fever.  Agree with continuing broad
   spectrum antibiotics.  At this time, patient appears to have
   superimposed pulmonary edema from volume resuscitation as evidenced by
   LOS fluid balance, interval weight, and clinical exam.  Attempted low
   dose lasix overnight [**4-27**] for diuresis and monitor respiratory status,
   with 700cc out and no worsening in creatinine.  Will attempt further
   diuresis and if no improvement in the respiratory status would obtain
   non-contrast chest CT and consider thoracentesis of any pleural
   effusions.  Patient has limited reserve given prior pneumonectomy and
   severe kyphoscoliosis and may not tolerate small volumes of fluid.
   Would anticipate that he would look a lot sicker if this were
   principally a worsening pneumonia. Urine legionella negative.
   - Chest CT with moderate right sided pleural effusion.
   - Continue vanc, cefpipime, doxycycline (Day 1 [**2159-4-22**]) for full 8 day
   course for now; re-eval after thoracentesis and pleural fluid results.
   - Repeat vanc trough this morning.
   - Nebulizers as needed
   - f/u blood cultures; consider repeat sputum culture
   - Low threshold for repeat ABG and intubation if necessary - appears
   comfortable currently though.
   - Chest PT
   - frequent attempts to wean BiPap; would like to keep SpO2 > 90%.
   - consult IP this morning for likely thoracentesis versus some form of
   tube thoracostomy.
   .
   # Atrial fibrillation: Currently in atrial fibrillation with episodes
   of RVR.  Patient appears to have chemically cardioverted back to NSR
   this morning.
   - Dofetilide interacts with vancomycin and hence need to monitor QT
   intervals.
   - continue dofetillide with daily ECG for QTc (clarify with cardiology
   when this practice can be d/c'd and plan for dofetilide regarding
   rhythm therapy for a. fib)
   - keep potassium around 4 and magnesium at 2 for the dofetilide; check
   electrolytes [**Hospital1 **]
   - continue coumadin today at 2.5mg and monitor INR closely (goal INR
   2-2.5)
   - Touch base with EP
   - diltiazem gtt (wean as tolerated)
   .
   # Junctional Bradycardia: thought [**2-13**] to beta-blockers.  Hold atenolol
   and avoid metoprolol for rate control.
   - d/w EP regarding beta-blocker prior to d/c home.
   .
   # Coronary artery disease:  Status post CABG and [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **] 2.  ST
   depressions on EKG (stable, but worsened with tachycardia to 150s).  No
   active chest pain.  Cardiac enzymes negative.
   - continue aspirin 81 mg, Lipitor
   - Rate control with standing and prn dilt and treating underlying
   hypoxia and infection
   .
   # Hypertension:
   -continue diltiazem.  holding beta-blocker given junctional rhythm.
   .
   # Altered mental status: Likely occurred in the setting of fever and
   tachycardia along with increased benzodiazepine dose.  .
   - appreciate psych recs
   - continue mirtazepine HS plus PRN (pt did ok with this)
   - will try low dose haldol 0.5 mg PO if needed for acute agitation
   .
   # Depression/insomnia:  Psych following, avoid benzodiaepines
   - prefer to hold ativan (recommended by psych) and use only if needed
   - per psych may consider 0.25 mg haldol for anxiety, will weigh the
   cost/benefits given pt on dofetilide which prolongs QT (although
   studies show haldol prolongs QT less than other antipsychotics.
   - continue mirtazapine.
   .
   # Hypernatremia: Free water down by 1.5L, not taking PO's well given
   respiratory distress.
   - Continue slow D5 infusion at 75-100cc/hr with improvement in sodium;
   recheck sodium in afternoon.
   - Maintain negative with lasix.
   .
   # Chronic sinusitis:
   - continue flonase
   # Hematuria
 pink tinged urine likely from traumatic foley placement.
   - monitor hematuria for resolution.
   .
   # OSA: On biPAP at home.
   - Continue BiPAP PRN
   .
   # Hyperlipidemia:
   - Continue Atorvastatin
   .
   # FEN/GI: Had [**2-14**] Ensures yesterday.
   - cardiac healthy diet
   - nutrition consult, recs appreciated -> not taking good PO's while on
   BiPap; possible TFs supplementation
   - ADAT post-thoracentesis
   .
   # DVT - Coumadin with INR therapeutic
   # Bowel regimen - senna, docusate; pt takes own lactobacillus
   # Pain: Currently comfortable, tylenol prn
   # ACCESS: PIV
   # Communication: Patient, wife, daughter+
   # Full Code
   [**Name (NI) **] [**Name (NI) 12543**] (wife) [**Telephone/Fax (1) 12544**]
   [**Name (NI) 12545**] [**Name (NI) 12543**] (son) [**Telephone/Fax (1) 12546**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-4-28**] 01:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2159-04-29 10:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Pleural Effusion, Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No complaints this AM.  Remains on NIPPV
   24 Hour Events:
 EKG - At [**2159-4-28**] 10:35 AM
 SPUTUM CULTURE - At [**2159-4-28**] 11:37 AM
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2159-4-28**] 08:16 PM
   Vancomycin - [**2159-4-28**] 09:00 PM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Diltiazem - [**2159-4-28**] 01:00 PM
   Furosemide (Lasix) - [**2159-4-28**] 08:00 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: nippv
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2159-4-29**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**61**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.8
C (96.5
   HR: 84 (78 - 141) bpm
   BP: 136/76(90) {112/58(72) - 158/99(114)} mmHg
   RR: 22 (14 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.4 kg (admission): 53.1 kg
   Height: 57 Inch
             Total In:
                                                                  2,830 mL
                                                                    842 mL
   PO:
                                                                    740 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  2,090 mL
                                                                    642 mL
   Blood products:
   Total out:
                                                                  3,635 mL
                                                                    555 mL
   Urine:
                                                                  3,635 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -805 mL
                                                                    287 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 592 (421 - 592) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 7 cmH2O
   FiO2: 60%
   PIP: 18 cmH2O
   SpO2: 96%
   ABG: ///35/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: No(t) Symmetric), (Breath Sounds:
   Bronchial: R base)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   10.5 g/dL
   221 K/uL
   109 mg/dL
   0.8 mg/dL
   35 mEq/L
   4.3 mEq/L
   22 mg/dL
   104 mEq/L
   143 mEq/L
   31.9 %
   8.4 K/uL
        [image002.jpg]
                             [**2159-4-24**]  03:57 AM
                             [**2159-4-24**]  02:14 PM
                             [**2159-4-24**]  03:37 PM
                             [**2159-4-25**]  04:20 AM
                             [**2159-4-26**]  06:32 AM
                             [**2159-4-27**]  05:30 AM
                             [**2159-4-27**]  04:10 PM
                             [**2159-4-28**]  05:09 AM
                             [**2159-4-28**]  02:05 PM
                             [**2159-4-29**]  05:00 AM
   WBC
   11.4
   9.9
   7.2
   9.5
   7.8
   8.4
   Hct
   37.3
   35.6
   32.3
   35.5
   33.2
   31.9
   Plt
   150
   164
   190
   192
   201
   221
   Cr
   1.1
   1.1
   0.9
   0.8
   0.8
   0.7
   0.8
   0.8
   TropT
   <0.01
   TCO2
   32
   31
   Glucose
   106
   130
   93
   101
   137
   149
   131
   109
   Other labs: PT / PTT / INR:20.9/35.0/1.9, CK / CKMB /
   Troponin-T:206/3/<0.01, ALT / AST:30/29, Alk Phos / T Bili:124/0.8,
   Differential-Neuts:71.7 %, Lymph:20.4 %, Mono:6.6 %, Eos:1.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.5 g/dL, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 HYPOXEMIA
 ALTERATION IN NUTRITION
 PNEUMONIA, [**Hospital 2293**] HOSPITAL ACQUIRED (NON-VAP)
 OLIGURIA/ANURIA
 ATRIAL FIBRILLATION (AFIB)
 RESTRICTIVE LUNG DISEASE (INCLUDING NEUROMUSCULAR, CHEST WALL)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   75M with a history of coronary artery disease s/p CABG x3, PAF,
   restrictive lung disease, and pulmonary HTN with ongoing respiratory
   failure due to pulmonary edema vs. pneumonia
   Respiratory failure:  Cont NIPPV.  Chest CT showed large effusion
   around R lung - given distorted anatomy will ask IP to see him for
   thoracentesis versus small-bore chest tube
   Afib: Cont dofetilide.  In NSR this AM.  Appreciate ongoing EP input.
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-4-28**] 01:51 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2159-04-30 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2159-4-29**] 10:15 AM
 THORACENTESIS - At [**2159-4-29**] 11:41 AM
   -Respiratory: S/p 1.5L [**Female First Name (un) **] by IP. Pleural fluid appears transudative
   but bloody with Hct of 1. Gram stain negative for organisms/PMNs.
   After that on high flow 15L at 50%, shallow breaths, no c/o SOB or
   difficulty breathing then O/N BIPAP 10/7 50% comfortable with RR in 20s
   sat >97%.
   - Pt notes little appetite but no n/v/d.
   - CV: continues with paroxysmal AFIB with rate 90-100s, stable blood
   pressure after stopping diltiazem drip and restarting diltiazem 60PO
   QID, also got extra dose of 30mg this AM.  Per EP, no longer need daily
   EKG; cont dofetilide, dilt, coumadin.
   - UOP waned in early AM, so gave 20 mg IV Lasix (diuresed well to this
   last night)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2159-4-29**] 08:30 PM
   Cefipime - [**2159-4-29**] 10:02 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2159-4-30**] 04:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-4-30**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**61**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (98.9
   HR: 109 (78 - 119) bpm
   BP: 114/60(73) {113/47(64) - 144/85(94)} mmHg
   RR: 21 (19 - 30) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 56.4 kg (admission): 53.1 kg
   Height: 57 Inch
             Total In:
                                                                  1,597 mL
                                                                      5 mL
   PO:
                                                                    550 mL
             TF:
   IVF:
                                                                  1,047 mL
                                                                      5 mL
   Blood products:
   Total out:
                                                                  2,172 mL
                                                                    633 mL
   Urine:
                                                                    872 mL
                                                                    633 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -575 mL
                                                                   -628 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 391 (391 - 592) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 7 cmH2O
   FiO2: 60%
   PIP: 18 cmH2O
   SpO2: 97%
   Ve: 8 L/min
   Physical Examination
   Gen: Pleasant. NAD.
   HEENT: Sclera anicteric.
   Neck: Supple with full EJ and JVP slightly above clavicle
   CV: normal S1, S2. No m/r/g.
   Chest: Severe Kyphoscoliosis. Decreased breath sounds on right base;
   absent on left except at apex. BS markedly improved, clear at apices
   with rhonchi in lower fields.  No air movement over posterior LUL
   fields
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: no pedal/ankle edema.   2+ DP pulses bilaterally
   Labs / Radiology
   232 K/uL
   11.9 g/dL
   100 mg/dL
   0.8 mg/dL
   34 mEq/L
   3.9 mEq/L
   24 mg/dL
   104 mEq/L
   144 mEq/L
   36.8 %
   7.4 K/uL
        [image002.jpg]
                             [**2159-4-24**]  02:14 PM
                             [**2159-4-24**]  03:37 PM
                             [**2159-4-25**]  04:20 AM
                             [**2159-4-26**]  06:32 AM
                             [**2159-4-27**]  05:30 AM
                             [**2159-4-27**]  04:10 PM
                             [**2159-4-28**]  05:09 AM
                             [**2159-4-28**]  02:05 PM
                             [**2159-4-29**]  05:00 AM
                             [**2159-4-30**]  05:29 AM
   WBC
   9.9
   7.2
   9.5
   7.8
   8.4
   7.4
   Hct
   35.6
   32.3
   35.5
   33.2
   31.9
   36.8
   Plt
   164
   190
   192
   [**Telephone/Fax (3) 12720**]
   Cr
   1.1
   0.9
   0.8
   0.8
   0.7
   0.8
   0.8
   0.8
   TCO2
   32
   31
   Glucose
   130
   93
   101
   137
   149
   131
   109
   100
   Other labs: PT / PTT / INR:21.2/33.6/2.0,
   Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Thoracentesis fluid: pH 7.45, 500 W, [**Numeric Identifier 12725**] R, 21%P, 61%L, total
   protein 2.0, glucose 116, LDH 120
   Micro: thoracentesis fluid
 GS negative; cultures pending
   [**4-28**] repeat sputum cx
 contaminated; cancelled
   Blood cx
 negative (final)
   Assessment and Plan
   Professor [**Known lastname 12543**] is a 75 YOM with paroxysmal atrial fibrilation and
   coronary artery disease who presented with 5 days of fatigue and
   developed hypoxic respiratory distress now s/p CCU stay for A. Fib with
   RVR and respiratory distress requiring BiPap now on face mask.
   .
   # Hypoxic Respiratory Distress: Initially patient had focal RLL
   infiltrate c/w pneumonia and fever.  Agree with continuing broad
   spectrum antibiotics.  At this time, patient appears to have
   superimposed pulmonary edema from volume resuscitation as evidenced by
   LOS fluid balance, interval weight, and clinical exam.  Attempted low
   dose lasix overnight [**4-27**] for diuresis and monitor respiratory status,
   with 700cc out and no worsening in creatinine.  Non-contrast CT showed
   moderate right sided pleural effusion, now s/p 1.5L thoracentesis on
   [**4-29**] with interval improvement in respiratory status.   Patient has
   limited reserve given prior pneumonectomy and severe kyphoscoliosis and
   may not tolerate small volumes of fluid.  Would anticipate that he
   would look a lot sicker if this were principally a worsening pneumonia.
   Urine legionella negative. Blood cultures negative (finalized). Sputum
   cultures contaminated.
   - vanc, cefpipime, doxycycline (Day 1 - [**2159-4-22**]) for 8 day course for
   now to end [**4-30**]
   - f/u pleural fluid culture (likely transudative
possibly related to
   diastolic heart failure)
   - Nebulizers as needed
   - Monitor for reaccumulation of effusion by exam, respiratory status,
   daily CXRs
   - Chest PT
   - spirometer to bedside
   - lasix for net negative 1L
   - attempt to wean oxygen; would like to keep SpO2 > 90%.
   .
   # Atrial fibrillation: Currently in atrial fibrillation, rate
   controlled with diltiazem.   Therapeutic on INR coumadin.
   - continue diltiazem 60 QID to goal HR <110
   - continue dofetilide per EP recs  (no need for daily EKGs any more)
   - keep potassium around 4 and magnesium at 2 for the dofetilide; check
   electrolytes [**Hospital1 **]
   - continue coumadin today at 2.5mg and monitor INR closely (goal INR
   2-2.5)
   - f/u EPrecs
   .
   # Junctional Bradycardia: thought [**2-13**] to beta-blockers.  Hold atenolol
   and avoid metoprolol for rate control.
   - d/w EP regarding beta-blocker prior to d/c home.
   .
   # Coronary artery disease:  Status post CABG and [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **] 2.  ST
   depressions on EKG (stable, but worsened with tachycardia to 150s).  No
   active chest pain.  Cardiac enzymes negative.
   - continue aspirin 81 mg, Lipitor
   - follow-up cardiology recs
   - Rate control with standing and prn dilt and treating underlying
   hypoxia and infection
   .
   # Hypertension:
   -continue diltiazem.  holding beta-blocker given junctional rhythm.
   .
   # Altered mental status: Likely occurred in the setting of fever and
   tachycardia along with increased benzodiazepine dose.  .
   - appreciate psych recs
   - continue mirtazepine HS plus PRN (pt did ok with this)
   - will try low dose haldol 0.5 mg PO if needed for acute agitation
   .
   # Depression/insomnia:  Psych following, avoid benzodiaepines
   - prefer to hold ativan (recommended by psych) and use only if needed
   - per psych may consider 0.25 mg haldol for anxiety, will weigh the
   cost/benefits given pt on dofetilide which prolongs QT (although
   studies show haldol prolongs QT less than other antipsychotics.
   - continue mirtazapine.
   .
   # Hypernatremia: Free water down by 1.5L, not taking PO's well given
   respiratory distress.
   - Continue slow D5 infusion at 75-100cc/hr with improvement in sodium;
   recheck sodium in afternoon.
   - Maintain negative with lasix.
   .
   # Chronic sinusitis:
   - continue flonase
   # Hematuria
 pink tinged urine likely from traumatic foley placement.
   - monitor hematuria for resolution.
   .
   # OSA: On biPAP at home.
   - Continue BiPAP PRN
   .
   # Hyperlipidemia:
   - Continue Atorvastatin
   .
   # FEN/GI: Had [**2-14**] Ensures yesterday.
   - cardiac healthy diet
   - nutrition consult, recs appreciated -> not taking good PO's while on
   BiPap; possible TFs supplementation (on [**4-27**] nutrition recommended tube
   feedings once off BiPAP; goal is Nutren Pulmonary @ 35 ml/hr to provide
   1260 kcals/ 57 g protein)
   .
   # DVT - Coumadin with INR therapeutic
   # Bowel regimen - senna, docusate; pt takes own lactobacillus
   # Pain: Currently comfortable, tylenol prn
   # ACCESS: PIV
   # Communication: Patient, wife, daughter+
   # Full Code
   # Dispo: ICU pending improvement in respiratory status; PT consult
   [**Name (NI) **] [**Name (NI) 12543**] (wife) [**Telephone/Fax (1) 12544**]
   [**Name (NI) 12545**] [**Name (NI) 12543**] (son) [**Telephone/Fax (1) 12546**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-4-30**] 12:28 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2159-04-30 12:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, afib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   s/p thoracentesis yesterday --> 1.3L of bloody fluid
   24 Hour Events:
 EKG - At [**2159-4-29**] 10:15 AM
 THORACENTESIS - At [**2159-4-29**] 11:41 AM
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2159-4-29**] 10:02 PM
   Vancomycin - [**2159-4-30**] 10:22 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2159-4-30**] 04:16 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2159-4-30**] 12:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**61**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.4
C (97.6
   HR: 106 (78 - 119) bpm
   BP: 119/72(83) {113/47(64) - 144/85(94)} mmHg
   RR: 26 (21 - 30) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 56.4 kg (admission): 53.1 kg
   Height: 57 Inch
             Total In:
                                                                  1,597 mL
                                                                    325 mL
   PO:
                                                                    550 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,047 mL
                                                                    205 mL
   Blood products:
   Total out:
                                                                  2,172 mL
                                                                    823 mL
   Urine:
                                                                    872 mL
                                                                    823 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -575 mL
                                                                   -498 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 391 (391 - 438) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 7 cmH2O
   FiO2: 60%
   PIP: 18 cmH2O
   SpO2: 96%
   ABG: ///34/
   Ve: 8 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irreg irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : on
   R , Crackles : scattered on L)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   11.9 g/dL
   232 K/uL
   100 mg/dL
   0.8 mg/dL
   34 mEq/L
   3.9 mEq/L
   24 mg/dL
   104 mEq/L
   144 mEq/L
   36.8 %
   7.4 K/uL
        [image002.jpg]
                             [**2159-4-24**]  02:14 PM
                             [**2159-4-24**]  03:37 PM
                             [**2159-4-25**]  04:20 AM
                             [**2159-4-26**]  06:32 AM
                             [**2159-4-27**]  05:30 AM
                             [**2159-4-27**]  04:10 PM
                             [**2159-4-28**]  05:09 AM
                             [**2159-4-28**]  02:05 PM
                             [**2159-4-29**]  05:00 AM
                             [**2159-4-30**]  05:29 AM
   WBC
   9.9
   7.2
   9.5
   7.8
   8.4
   7.4
   Hct
   35.6
   32.3
   35.5
   33.2
   31.9
   36.8
   Plt
   164
   190
   192
   [**Telephone/Fax (3) 12720**]
   Cr
   1.1
   0.9
   0.8
   0.8
   0.7
   0.8
   0.8
   0.8
   TCO2
   32
   31
   Glucose
   130
   93
   101
   137
   149
   131
   109
   100
   Other labs: PT / PTT / INR:21.2/33.6/2.0, CK / CKMB /
   Troponin-T:206/3/<0.01, ALT / AST:30/29, Alk Phos / T Bili:124/0.8,
   Differential-Neuts:71.7 %, Lymph:20.4 %, Mono:6.6 %, Eos:1.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.5 g/dL, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 HYPOXEMIA
 ALTERATION IN NUTRITION
 PNEUMONIA, [**Hospital 2293**] HOSPITAL ACQUIRED (NON-VAP)
 OLIGURIA/ANURIA
 ATRIAL FIBRILLATION (AFIB)
 RESTRICTIVE LUNG DISEASE (INCLUDING NEUROMUSCULAR, CHEST WALL)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   75M with a history of coronary artery disease s/p CABG x3, PAF,
   restrictive lung disease, and pulmonary HTN with ongoing respiratory
   failure with significant improvement after R-sided thoracentesis
   Respiratory failure:  Improvement post-[**Female First Name (un) **].  Fluid by labs most c/w
   transudate with some procedural trauma resulting in some RBCs in
   fluid.  Try to wean O2 today.  Cont to diurese 0.5-1L per day.  BiPap
   at night.
   Afib: Cont dofetilide.  Cont dilt.   Appreciate ongoing EP input.
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-4-30**] 08:09 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2159-05-01 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2159-4-30**] 10:36 AM
   - Pulm: continued on face tent 15L with FiO2 50% during the day,
   breathing comfortably, BiPAP overnight, diuresed 1L net negative with
   lasix 20mg IV boluses
   - This morning still requiring face mask at 100%->80%
   - CV: HR <110 on diltiazem 60QID during the day, trending up at night,
   given extra dose 30PO diltiazem, converted to sinus O/N but then back
   to AFIB around 6AM this morning
   - Family members asking to speak with EP
   - Cards fellow ([**Doctor First Name **]) says ok to transfer to [**Hospital1 1276**] when ready
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2159-4-30**] 10:22 AM
   Cefipime - [**2159-4-30**] 08:28 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2159-4-30**] 03:42 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unchanged
   Flowsheet Data as of  [**2159-5-1**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**61**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 104 (74 - 136) bpm
   BP: 136/76(90) {113/54(71) - 137/93(101)} mmHg
   RR: 18 (11 - 30) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 56.4 kg (admission): 53.1 kg
   Height: 57 Inch
                  Total In:
                                                                    815 mL
                  PO:
                                                                    560 mL
                  TF:
   IVF:
                                                                    255 mL
   Blood products:
   Total out:
                                                                  1,827 mL
                                                                    162 mL
   Urine:
                                                                  1,827 mL
                                                                    162 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,012 mL
                                                                   -162 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: Standby
   Vt (Spontaneous): 523 (481 - 523) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 7 cmH2O
   FiO2: 50%
   PIP: 18 cmH2O
   SpO2: 96%
   ABG: ///37/
   Ve: 5.3 L/min
   Physical Examination
   Gen: Pleasant. NAD. Incomplete exam as patient on bedpan at time of
   initial evaluation.
   HEENT: Sclera anicteric.
   Neck: Supple with full EJ and JVP slightly above clavicle
   CV: normal S1, S2. No m/r/g.
   Abdomen: Soft, non-tender, non-distended
   Chest: Severe Kyphoscoliosis. Decreased breath sounds on right base;
   absent on left except at apex. BS markedly improved, clear at apices
   with rhonchi in lower fields.  No air movement over posterior LUL
   fields
   Ext: no pedal/ankle edema.   2+ DP pulses bilaterally
   Labs / Radiology
 NO NEW LABS YET TODAY (DRAW PENDING)
   232 K/uL
   11.9 g/dL
   150 mg/dL
   0.8 mg/dL
   37 mEq/L
   3.4 mEq/L
   27 mg/dL
   100 mEq/L
   144 mEq/L
   36.8 %
   7.4 K/uL
        [image002.jpg]
                             [**2159-4-24**]  03:37 PM
                             [**2159-4-25**]  04:20 AM
                             [**2159-4-26**]  06:32 AM
                             [**2159-4-27**]  05:30 AM
                             [**2159-4-27**]  04:10 PM
                             [**2159-4-28**]  05:09 AM
                             [**2159-4-28**]  02:05 PM
                             [**2159-4-29**]  05:00 AM
                             [**2159-4-30**]  05:29 AM
                             [**2159-4-30**]  07:19 PM
   WBC
   9.9
   7.2
   9.5
   7.8
   8.4
   7.4
   Hct
   35.6
   32.3
   35.5
   33.2
   31.9
   36.8
   Plt
   164
   190
   192
   [**Telephone/Fax (3) 12720**]
   Cr
   1.1
   0.9
   0.8
   0.8
   0.7
   0.8
   0.8
   0.8
   0.8
   TCO2
   31
   Glucose
   130
   93
   101
   137
   149
   131
   109
   100
   150
   Other labs:
   PT / PTT / INR:21.2/33.6/2.0,
   CK / CKMB / Troponin-T:206/3/<0.01,
   ALT / AST:30/29, Alk Phos / T Bili:124/0.8,
   Differential-Neuts:71.7 %, Lymph:20.4 %, Mono:6.6 %, Eos:1.2 %,
   Lactic Acid: 0.9 mmol/L, Albumin:3.5 g/dL,
   Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Micro:
   [**2159-4-29**] Pleural fluid: gram stain negative, aerobic cx negative,
   anaerobic cx pending
   Images
   [**2159-4-30**] CXR: Pulmonary edema cleared substantially between [**4-28**] and
   18, but consolidation in the right upper lobe has worsened suggesting
   this is pneumonia. Right lower lobe consolidation is difficult to
   assess could be a second focus of infection or alternatively
   atelectasis. Small-to-moderate right pleural effusion has increased.
   Heart size has been stable, but difficult to assess because of anatomic
   distortion from scoliosis. Calcific left fibrothorax is longstanding.
   The underlying lung is grossly unremarkable. There is no pneumothorax.
   [**2159-5-1**] CXR: Report pending.
   Assessment and Plan
   Professor [**Known lastname 12543**] is a 75 YOM with paroxysmal atrial fibrilation and
   coronary artery disease who presented with 5 days of fatigue and
   developed hypoxic respiratory distress now s/p CCU stay for A. Fib with
   RVR and respiratory distress requiring BiPap now on face mask.
   .
   # Hypoxic Respiratory Distress: Initially patient had focal RLL
   infiltrate c/w pneumonia and fever.  Agree with continuing broad
   spectrum antibiotics.  At this time, patient appears to have
   superimposed pulmonary edema from volume resuscitation as evidenced by
   LOS fluid balance, interval weight, and clinical exam.  Attempted low
   dose lasix overnight [**4-27**] for diuresis and monitor respiratory status,
   with 700cc out and no worsening in creatinine.  Non-contrast CT showed
   moderate right sided pleural effusion, now s/p 1.5L thoracentesis on
   [**4-29**] with interval improvement in respiratory status.   Patient has
   limited reserve given prior pneumonectomy and severe kyphoscoliosis and
   may not tolerate small volumes of fluid.  Would anticipate that he
   would look a lot sicker if this were principally a worsening pneumonia.
   Urine legionella negative. Blood cultures negative (finalized). Sputum
   cultures contaminated. Pleural fluid cultures NGTD.
   - Off Abx: completed course of vanc, cefepime, doxycycline (Day 1 -
   [**2159-4-22**]) for 8 day course ending [**2159-4-30**]
   - f/u pleural fluid culture (appears transudative
possibly related to
   diastolic heart failure)
 NGTD on [**5-1**]
   - Nebulizers as needed
   - CXR overall worse on [**5-1**] consistent with possible RUL PNA (new
   infection vs resolving PNA vs edema, but no new cough or sputum
   production) together with reaccumulatiung effusion and pulmonary edema.
   For now will monitor clinically and restart antibiotics in setting of
   fever or new symptoms of PNA. Will culture sputum if patient produces
   sputum.
   - Chest PT
   - spirometer to bedside
   - lasix PRN for net negative 1L: will give lasix 20 mg now and reassess
   in afternoon
   - attempt to wean oxygen; would like to keep SpO2 > 90%.
   .
   # Atrial fibrillation: Currently in atrial fibrillation, rate
   controlled with diltiazem.   Therapeutic on INR coumadin.  Received
   additional PO 30 dilt overnight -> NSR, but then back into A-fib this
   AM.
   - continue diltiazem 60 QID to goal HR <110; will give additional doses
   of diltiazem prn to attain better rate control
   - continue dofetilide per EP recs  (no need for daily EKGs any more)
   - keep potassium around 4 and magnesium at 2 for the dofetilide; check
   electrolytes [**Hospital1 **] while on Lasix
   - continue coumadin today at 2.5mg and monitor INR closely (goal INR
   2-2.5)
   - f/u EP recs: will inquire about appropriateness of restarting
   beta-blocker for rate control (initial recs from cards to avoid
   starting beta-blocker while still in setting of respiratory distress
   because rate will be difficult to control due to respiratory issues)
   .
   # Junctional Bradycardia: thought [**2-13**] to beta-blockers.  Hold atenolol
   and avoid metoprolol for rate control.
   - d/w EP regarding beta-blocker prior to d/c home.
   .
   # Coronary artery disease:  Status post CABG and [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **] 2.  ST
   depressions on EKG (stable, but worsened with tachycardia to 150s).  No
   active chest pain.  Cardiac enzymes negative.
   - continue aspirin 81 mg, Lipitor
   - follow-up cardiology recs
   - Rate control with standing and prn dilt and treating underlying
   hypoxia and infection
   .
   # Hypertension:
   -continue diltiazem.  holding beta-blocker given junctional rhythm
   .
   # Altered mental status: Likely occurred in the setting of fever and
   tachycardia along with increased benzodiazepine dose.  .
   - appreciate psych recs
   - continue mirtazepine HS plus PRN (pt did ok with this)
   - will try low dose haldol 0.5 mg PO if needed for acute agitation
   .
   # Depression/insomnia:  Psych following, avoid benzodiaepines
   - prefer to hold ativan (recommended by psych) and use only if needed
   - per psych may consider 0.25 mg haldol for anxiety, will weigh the
   cost/benefits given pt on dofetilide which prolongs QT (although
   studies show haldol prolongs QT less than other antipsychotics.
   - continue mirtazapine.
   .
   # Hypernatremia: Na 148 on [**5-1**], not taking PO's well given respiratory
   distress.
   - Encourage POs; recheck Na in afternoon.
   - Maintain negative with lasix.
   .
   # Chronic sinusitis:
   - continue flonase
   # Hematuria
 pink tinged urine likely from traumatic foley placement.
   - monitor hematuria for resolution.
   .
   # OSA: On biPAP at home.
   - Continue BiPAP PRN
   .
   # Hyperlipidemia:
   - Continue Atorvastatin
   .
   # FEN/GI: Had [**2-14**] Ensures yesterday.
   - cardiac healthy diet
   - nutrition consult, recs appreciated -> not taking good PO's while on
   BiPap; possible TFs supplementation (on [**4-27**] nutrition recommended tube
   feedings once off BiPAP; goal is Nutren Pulmonary @ 35 ml/hr to provide
   1260 kcals/ 57 g protein)
   .
   # DVT - Coumadin with INR therapeutic
   # Bowel regimen - senna, docusate; pt takes own lactobacillus
   # Pain: Currently comfortable, tylenol prn
   # ACCESS: PIV
   # Communication: Patient, wife, daughter+
   # Full Code
   # Dispo: ICU pending improvement in respiratory status; PT consult
   once stable call out to [**Hospital1 1276**]
   [**Name (NI) **] [**Name (NI) 12543**] (wife) [**Telephone/Fax (1) 12544**]
   [**Name (NI) 12545**] [**Name (NI) 12543**] (son) [**Telephone/Fax (1) 12546**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-4-30**] 07:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2159-05-01 11:21:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   75 yo man admitted with weakness, AFib and RVR.  Transferred to MICU
   for persistent respiratory failure/bibap.  Continues on face tent
   during the day, and requiring Bipap overnight.  Had thoracentesis over
   weekend.   Had some RVR yesterday, responded to dilt.
   24 Hour Events:
 EKG - At [**2159-4-30**] 10:36 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2159-4-30**] 10:22 AM
   Cefipime - [**2159-4-30**] 08:28 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2159-4-30**] 03:42 PM
   Other medications:
   lipitor
   asa
   dofetilide
   doxycyline
   lactobacillu
   diltizem
   mirtazipine
   senna
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-5-1**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**61**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 114 (74 - 136) bpm
   BP: 131/73(87) {113/54(71) - 138/93(101)} mmHg
   RR: 28 (11 - 30) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 56.4 kg (admission): 53.1 kg
   Height: 57 Inch
                  Total In:
                                                                    815 mL
                                                                     60 mL
   PO:
                                                                    560 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    255 mL
   Blood products:
   Total out:
                                                                  1,827 mL
                                                                    207 mL
   Urine:
                                                                  1,827 mL
                                                                    207 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,012 mL
                                                                   -147 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 523 (481 - 523) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 7 cmH2O
   FiO2: 95%
   PIP: 18 cmH2O
   SpO2: 97%
   ABG: ///36/
   Ve: 5.3 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: left)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.1 g/dL
   280 K/uL
   97 mg/dL
   0.8 mg/dL
   36 mEq/L
   4.4 mEq/L
   28 mg/dL
   104 mEq/L
   148 mEq/L
   36.8 %
   7.5 K/uL
        [image002.jpg]
                             [**2159-4-25**]  04:20 AM
                             [**2159-4-26**]  06:32 AM
                             [**2159-4-27**]  05:30 AM
                             [**2159-4-27**]  04:10 PM
                             [**2159-4-28**]  05:09 AM
                             [**2159-4-28**]  02:05 PM
                             [**2159-4-29**]  05:00 AM
                             [**2159-4-30**]  05:29 AM
                             [**2159-4-30**]  07:19 PM
                             [**2159-5-1**]  07:50 AM
   WBC
   9.9
   7.2
   9.5
   7.8
   8.4
   7.4
   7.5
   Hct
   35.6
   32.3
   35.5
   33.2
   31.9
   36.8
   36.8
   Plt
   164
   190
   192
   [**Telephone/Fax (3) 12720**]
   280
   Cr
   1.1
   0.9
   0.8
   0.8
   0.7
   0.8
   0.8
   0.8
   0.8
   0.8
   Glucose
   130
   93
   101
   137
   149
   131
   109
   100
   150
   97
   Other labs: PT / PTT / INR:16.9/29.0/1.5, CK / CKMB /
   Troponin-T:206/3/<0.01, ALT / AST:30/29, Alk Phos / T Bili:124/0.8,
   Differential-Neuts:71.7 %, Lymph:20.4 %, Mono:6.6 %, Eos:1.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.5 g/dL, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
   Respiratory distress:  On vanco/cefepime for 8 day course.  Tap had a
   transudate.  CXR worrisome for new RUL opacity.  Does not have
   other evidence of a new PNA like productive cough, leukocytosis,
   fever.  So will hold off on broadening antibiotic coverage.
   Pulmonary edema:  continue to diurese, Aim negative 1L today.
   AFib:  Again in RAF today.  Responded to PO dilt previously, so will
   try again and bump up basal dose.
   CAD:  on baby aspirin
   hypernatremia:  Will give more free water.
   hematuria:  improved
   bipap overnight.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-4-30**] 08:09 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2159-05-02 12:15:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 yo man with chronic lung disease due to chest wall restriction,
   diastolic CHF, pulmonary HTN.  Cotinued hypoxemia overnight.
   24 Hour Events:
 BLOOD CULTURED - At [**2159-5-2**] 04:05 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2159-4-30**] 10:22 AM
   Cefipime - [**2159-4-30**] 08:28 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2159-5-2**] 12:30 AM
   Other medications:
   lipitor
   flovent
   asa 325
   dofilitide
   colace, lactobacillus
   remeron
   dilt 90mg qid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-5-2**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**61**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 133 (82 - 134) bpm
   BP: 134/86(97) {114/33(71) - 172/97(110)} mmHg
   RR: 27 (16 - 32) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 56.4 kg (admission): 53.1 kg
   Height: 57 Inch
             Total In:
                                                                  1,465 mL
                                                                    845 mL
   PO:
                                                                    410 mL
                                                                    220 mL
   TF:
   IVF:
                                                                  1,055 mL
                                                                    625 mL
   Blood products:
   Total out:
                                                                    737 mL
                                                                  1,240 mL
   Urine:
                                                                    737 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    728 mL
                                                                   -395 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///37/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : right base, Diminished:
   bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   11.6 g/dL
   276 K/uL
   129 mg/dL
   0.7 mg/dL
   37 mEq/L
   3.5 mEq/L
   21 mg/dL
   99 mEq/L
   142 mEq/L
   35.3 %
   8.5 K/uL
        [image002.jpg]
                             [**2159-4-27**]  05:30 AM
                             [**2159-4-27**]  04:10 PM
                             [**2159-4-28**]  05:09 AM
                             [**2159-4-28**]  02:05 PM
                             [**2159-4-29**]  05:00 AM
                             [**2159-4-30**]  05:29 AM
                             [**2159-4-30**]  07:19 PM
                             [**2159-5-1**]  07:50 AM
                             [**2159-5-1**]  05:39 PM
                             [**2159-5-2**]  03:44 AM
   WBC
   9.5
   7.8
   8.4
   7.4
   7.5
   8.5
   Hct
   35.5
   33.2
   31.9
   36.8
   36.8
   35.3
   Plt
   192
   201
   221
   232
   280
   276
   Cr
   0.8
   0.8
   0.7
   0.8
   0.8
   0.8
   0.8
   0.8
   0.7
   0.7
   Glucose
   101
   137
   149
   131
   109
   100
   150
   97
   155
   129
   Other labs: PT / PTT / INR:15.1/27.0/1.3, CK / CKMB /
   Troponin-T:206/3/<0.01, ALT / AST:30/29, Alk Phos / T Bili:124/0.8,
   Differential-Neuts:71.7 %, Lymph:20.4 %, Mono:6.6 %, Eos:1.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.5 g/dL, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.1 mg/dL
   Microbiology: pleural fluid cultures negative.
   Assessment and Plan
   Acute on chronic respiratory failure:  Pulmonary edema and chronic lung
   disease
   Acute on chronic diastolic dysfunction:  Continue to diurese.
   RAF:  will discuss with EP about adding a beta-blocker today.
           dose coumadin today - start 5mg per day.
   hypernatremia: resolved.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-4-30**] 08:09 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2159-05-03 12:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 yo man  with chronic respiratory failure, admitted with acute on
   chronic respiratory failure, PNA, CHF.  This morning improved, on less
   oxygen.  Now in sinus rhythm.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2159-4-30**] 08:28 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2159-5-2**] 06:00 PM
   Lansoprazole (Prevacid) - [**2159-5-3**] 08:30 AM
   Other medications:
   lipitor
   asa
   dofetlide
   lactobacillus
   mirtazipine
   dilt SR 240mg [**Hospital1 **]
   coumadin 5mg daily
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-5-3**] 12:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**61**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.9
C (96.7
   HR: 95 (94 - 135) bpm
   BP: 108/56(68) {108/52(64) - 136/90(99)} mmHg
   RR: 20 (15 - 30) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 56.4 kg (admission): 53.1 kg
   Height: 57 Inch
                  Total In:
                                                                  1,415 mL
                                                                    240 mL
   PO:
                                                                    790 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    625 mL
   Blood products:
   Total out:
                                                                  2,928 mL
                                                                    340 mL
   Urine:
                                                                  2,928 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,513 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///42/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : 1/2 up , Diminished:
   bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.9 g/dL
   252 K/uL
   109 mg/dL
   0.8 mg/dL
   42 mEq/L
   3.9 mEq/L
   21 mg/dL
   98 mEq/L
   145 mEq/L
   36.3 %
   8.0 K/uL
        [image002.jpg]
                             [**2159-4-28**]  05:09 AM
                             [**2159-4-28**]  02:05 PM
                             [**2159-4-29**]  05:00 AM
                             [**2159-4-30**]  05:29 AM
                             [**2159-4-30**]  07:19 PM
                             [**2159-5-1**]  07:50 AM
                             [**2159-5-1**]  05:39 PM
                             [**2159-5-2**]  03:44 AM
                             [**2159-5-2**]  04:48 PM
                             [**2159-5-3**]  02:02 AM
   WBC
   7.8
   8.4
   7.4
   7.5
   8.5
   8.0
   Hct
   33.2
   31.9
   36.8
   36.8
   35.3
   36.3
   Plt
   [**Telephone/Fax (3) 12766**]80
   276
   252
   Cr
   0.7
   0.8
   0.8
   0.8
   0.8
   0.8
   0.7
   0.7
   0.8
   0.8
   Glucose
   149
   131
   109
   100
   150
   97
   155
   129
   157
   109
   Other labs: PT / PTT / INR:17.0/27.0/1.5, CK / CKMB /
   Troponin-T:206/3/<0.01, ALT / AST:30/29, Alk Phos / T Bili:124/0.8,
   Differential-Neuts:71.7 %, Lymph:20.4 %, Mono:6.6 %, Eos:1.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.5 g/dL, Ca++:9.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 HYPOXEMIA
 ALTERATION IN NUTRITION
 PNEUMONIA, [**Hospital 2293**] HOSPITAL ACQUIRED (NON-VAP)
 OLIGURIA/ANURIA
 ATRIAL FIBRILLATION (AFIB)
 RESTRICTIVE LUNG DISEASE (INCLUDING NEUROMUSCULAR, CHEST WALL)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   Respiratory failure:  Improved with diuresis and better HR control.
   Contineu slow diuresis with lasix.
   AFib:  continue diltiazem and dofetilide.  Will hold off on heparin as
   he may be therapeutic tomorrow
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-4-30**] 08:09 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill